US04303768
About 30 parts by weight of an aqueous sodium silicate solution containing about 10% Na2O and 15% SiO2, 1 part by weight of adipic acid, 20 parts by weight of butadiene, 0.5 parts by weight of sodium salt of fatty acids, 0.05 to 0.1 parts by weight of ferric sulfate, 0.1 parts by weight of hydrogen peroxide, 0.01 parts by weight of benzoxyl peroxide and 0.1 parts by weight of lauryl mercaptan are mixed in a closed system at ambient to 50° C. while agitating at about 0.40 to 6 psiq for 30 to 120 minutes; then the mixture is heated to 70° to 100° C. at ambient pressure for 10 to 30 minutes. The reaction is complete within 24 hours thereby producing an emulsion of poly(sodium silicate-butadiene) copolymer.

reactant | sodium silicate | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+]
reactant | adipic acid | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | butadiene | C=CC=C | C4H6
reactant | sodium | [Na] | Na
reactant | hydrogen peroxide | OO | H2O2
reactant | lauryl mercaptan | C(CCCCCCCCCCC)S | C12H26S
product | sodium silicate butadiene | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+].C=CC=C | InChI=1S/C4H6.4Na.O4Si/c1-3-4-2;;;;;1-5(2,3)4/h3-4H,1-2H2;;;;;/q;4*+1;-4
